US06717016B2
(e) Synthesis of (+)-2-(2-fluorophenyl)-1-methylethyl Mesylate
Under a nitrogen atmosphere, to a mixture of 2.15 g (14.0 mmol) of (+)-1-(2-fluorophenyl)-propan-2-ol and 2.34 ml (16.8 mmol) of triethylamine in 10 ml of dichloromethane, 1.19 ml (15.4 mmol) of methanesulfonyl chloride was added at 0° C. The resulting mixture was stirred overnight at room temperature and then treated with water and extracted 3 times with dichloromethane. The combined organic layer was then washed with water, solvent was distilled off and the residue was purified by silica gel chromatography, giving 2.68 g of the title compound. (Yield: 82%).

reactant | (+)-1-(2-fluorophenyl)-propan-2-ol | 14.0 mmol, 2.15 g | FC1=C(C=CC=C1)CC(C)O | C9H11FO
reactant | triethylamine | 16.8 mmol, 2.34 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15.4 mmol, 1.19 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (+)-2-(2-fluorophenyl)-1-methylethyl Mesylate | 2.68 g, Yield: 82% | S(C)(=O)(=O)OC(CC1=C(C=CC=C1)F)C | C10H13FO3S
